# DC extraction bench
.include ./top.cir

Vgate gate 0 1.8
Vdrain drain 0 1.8
Xdut gate drain 0 top

.save i(vdrain) v(gate)

.control
dc Vgate 0 1.8 0.01
let d = -i(vdrain)
let g = v(gate)
set filetype = ASCII
write {bench_path} d g
.endc
